US06362178B1
2-Propoxybenzamidine hydrochloride
21.41 g (400 mmol) of ammonium chloride are suspended in 400 ml of toluene and cooled to 0-5° C. 200 ml of a 2M solution of triethylaluminium in hexane are added dropwise, and the mixture is stirred at room temperature until the evolution of gas has ceased. After addition of 32.2 g (200 mmol) of 2-propoxybenzonitrile, the reaction mixture is stirred at 80° C. (bath) overnight. With ice-cooling, the cooled reaction mixture is added to a suspension of 300 g of silica gel and 2.85 of ice-cooled chloroform, and the mixture is stirred for 30 minutes. The mixture is filtered off with suction and the filter residue is washed with the same amount of methanol. The solvent is distilled off under reduced pressure, the residue is stirred with 500 ml of a mixture of dichloromethane and methanol (9:1), the solid is filtered off and the mother liquor is concentrated. The residue is stirred with petroleum ether and filtered off with suction. This gives 22.3 g (52%) of product.

reactant | ammonium chloride | 400 mmol, 21.41 g | [Cl-].[NH4+]
reactant | triethylaluminium | C(C)[Al](CC)CC
reactant | 2-propoxybenzonitrile | 200 mmol, 32.2 g | C(CC)OC1=C(C#N)C=CC=C1 | C10H11NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-Propoxybenzamidine hydrochloride | Cl.C(CC)OC1=C(C(=N)N)C=CC=C1 | InChI=1S/C10H14N2O.ClH/c1-2-7-13-9-6-4-3-5-8(9)10(11)12;/h3-6H,2,7H2,1H3,(H3,11,12);1H
